US04883802
18.5 g of 2-oxo-1 pyrrolidinyl acetic acid was dissolved in 500 ml of dimethylformamide and the solution was cooled to -15° C., to which 18.53 g of isobutyl chloroformate was added and 13.21 g of triethylamine was added dropwise at -15° to 5° C. After stirring at -10° to -5° C. for 15 minutes, 17.04 g of glycine methyl hydrochloride was added and 13.73 g of triethylamine was added dropwise at -10° to -5° C. The reaction liquid was allowed to stand so as to rise its temperature to room temperature over 2 hours and triethylamine hydrochloride was filtered off. Dimethylformamide was distilled off under reduced pressure and the residue was purified through the chromatography on silica gel (silica gel 500 g, chloroform-1 to 2 % of methanol as the eluent). Then, the solvent was distilled off to obtain 17.97 g of N- [ (2-oxo-1-pyrrolidinyl)acetyl]glycine methyl ester as the oily substance. This was dissolved in 100 ml of methanol and the solution of 4.78 g of sodium hydroxide dissolved in 150 ml of methanol was added thereto and reacted at room temperature for 12 hours. After 10 g of acetic acid was added, methanol was distilled off under reduced pressure and the residue was purified through the chromatography on silica gel (silica gel 340 g, chloroform-10 % of methanol-1 % of formic acid as the eluent). The solvent was distilled off and the residue was crystallized from tetrahydrofuran to obtain the titled compound.

reactant | isobutyl chloroformate | 18.53 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 13.21 g | C(C)N(CC)CC | C6H15N
reactant | glycine methyl hydrochloride | 17.04 g | CCl.NCC(=O)O
reactant | triethylamine | 13.73 g | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N- [ (2-oxo-1-pyrrolidinyl)acetyl]glycine methyl ester | 17.97 g | COC(CNC(CN1C(CCC1)=O)=O)=O | C9H14N2O4
